US04956433
Bis(4-(2-benzalaminoethyl)piperazine-1-thiocarbonyl) Disulfane
10.6 parts of benzaldehyde are added to a solution of 12.9 parts of 1-(2-aminoethyl)piperazine in 24 parts of water and 24 parts of ethanol. 7.6 parts of carbon disulfide are then slowly added dropwise with ice cooling, whereby a precipitate forms. This is again dissolved after dilution with 100 parts each of water and of ethanol by addition of 10.1 parts of triethylamine and oxidized with 33 parts with potassium hexacyanoferrate(III). The product that now precipitates is filtered, washed repeatedly with water and finally with methanol, and dried at 30° C. in vacuum. Obtained are 26 parts of a substance with 56.4% C, 6.3% H, 14.5% N, and 21.5% S (calculated: 57.5% C, 6.2% H, 14.4% N, 21.9% S), which corresponds to the title compound of this Example according to IR and 1H-NMR.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-(2-aminoethyl)piperazine | NCCN1CCNCC1 | C6H15N3
reactant | carbon disulfide | C(=S)=S | CS2
catalyst | potassium hexacyanoferrate(III) | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Bis(4-(2-benzalaminoethyl)piperazine-1-thiocarbonyl) Disulfane | C(C1=CC=CC=C1)=NCCN1CCN(CC1)C(=S)SSC(=S)N1CCN(CC1)CCN=CC1=CC=CC=C1 | C28H36N6S4
